Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
peanuts
 
Attending: ___.
 
Chief Complaint:
nausea/vomiting, diaphoresis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ from ___ w/ PMH of  CAD (s/p MI and PCI in ___, HLD, NAFLD,
anxiety, hiatal hernia, who presented with chills/sweats,
fatigue, generalized weakness, mild confusion, n/v, and a
possible syncopal episode vs fall out of bed (she awoke on the
floor next to her bed and did not recall how she got there). 

Patient is visiting son from ___ and flew in
approximately 48 hours ago. Day before admission, she was in her
normal health, though noted to feeling tired at end of day due 
to
being very active. In the middle of the night she woke up
sweating, SOB, nauseaous and vomited X1. She then went back to
sleep. She woke up again feeling very cold and was shaking but
fell back asleep. Next she awoke to find herself on the floor
with generalized weakness. She was unable to get herself off the
floor, and had difficulty grasping the bedside phone with her R
hand (though felt weak in both arms). She called the hotel front
desk who called ambulance and she was lifted into a stretcher.

During this time she denied any chest pain, cough, fever,
abdominal pain or diarrhea.

In the ED, vital signs were notable for: 99.7F, 82, 128/60, 20, 
96% on RA. Basic labs were fairly unremarkable other than lytes 
with low magnesium and a suggestion of volume contracted state.
Due to the somewhat vague history and the unclarity of what was 
the inciting event, she underwent fairly broad workup as 
follows: 
- CXR showed a RML PNA, but unclear if she aspirated during her 
vomiting and/or time on the floor, or if this was the root 
problem. 
- For possibility that the vomiting and ?syncope was a posterior 
TIA or vertebrobasilar insufficiency, she was seen by neuro and 
underwent a CTA head/heck, which was unremarkable.
- For possibility of ACS, she had serial EKGs (which were 
unremarkable) and serial troponins, which were downtrending with 
no associated CK-MB elevation.

She was given 3L NS, IV magnesium, ASA 324, CTX/azithro, and was 
admitted to medicine. Upon arrival to the floor, she reports 
feeling back to her normal
baseline. She was able to ambulate without difficulty. She 
denies
any other weakness, SOB, diaphoresis, nausea/vomiting.

 
Past Medical History:
NSTEMI s/p PCI (___)
HLD
NAFLD
Anxiety
Hiatal hernia
 
Social History:
___
Family History:
Not contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
___ Temp: 98.5 PO BP: 93/60 HR: 78 RR: 20 O2
sat: 96% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM: 
======================
VITALS: 24 HR Data (last updated ___ @ 1551)
    Temp: 97.9 (Tm 99.0), BP: 121/56 (93-121/53-61), HR: 72 
(68-82), RR: 18, O2 sat: 100% (92-100), O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection. MMM.
NECK:  No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal 
sensation. Gait is normal. AOx3.
 
Pertinent Results:
ADMISSION LABS: 
==============
___ 10:00AM BLOOD WBC-5.3 RBC-3.61* Hgb-10.4* Hct-33.3* 
MCV-92 MCH-28.8 MCHC-31.2* RDW-13.4 RDWSD-45.1 Plt ___
___ 10:00AM BLOOD Neuts-86.7* Lymphs-5.4* Monos-6.7 
Eos-0.6* Baso-0.2 Im ___ AbsNeut-4.63 AbsLymp-0.29* 
AbsMono-0.36 AbsEos-0.03* AbsBaso-0.01
___ 10:00AM BLOOD ___ PTT-24.0* ___
___ 10:00AM BLOOD Glucose-89 UreaN-23* Creat-1.0 Na-141 
K-3.9 Cl-105 HCO3-22 AnGap-14
___ 10:00AM BLOOD ALT-53* AST-61* CK(CPK)-112 AlkPhos-88 
TotBili-0.5
___ 10:00AM BLOOD cTropnT-0.07*
___ 10:00AM BLOOD CK-MB-3
___ 10:00AM BLOOD Albumin-4.0 Calcium-10.3 Phos-2.5* 
Mg-1.5*
___ 10:00AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 10:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 10:00AM BLOOD HCV Ab-NEG
___ 12:25PM URINE Blood-NEG Nitrite-POS* Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 12:25PM URINE RBC-6* WBC-3 Bacteri-FEW* Yeast-NONE 
Epi-0

IMAGING: 
=======
RUQUS (___)
Echogenic liver consistent with steatosis. Other forms of liver 
disease
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded
on the basis of this examination

2-VIEW CHEST X-RAY (___)
Patchy opacities noted in the medial right lung base with likely 
representing
right lower lobe pneumonia.  When compared with same day CT head 
and neck,
subtle opacities also noted within the right upper lobe, not 
well seen on this
chest radiograph.  Findings suggest multifocal pneumonia.  Left 
lung appears
relatively clear.  No large pleural effusion or pneumothorax. 
Cardiomediastinal silhouette is within normal limits.  Large 
size hiatal
hernia is noted.
IMPRESSION: 
Multifocal pneumonia most pronounced in the right middle lobe.  
Large hiatal
hernia.

CTA HEAD AND CTA NECK  (___)
1. No intracranial hemorrhage, mass effect, hydrocephalus or 
midline shift. 
No evidence of a large territorial infarct.
2. Calcification at the carotid bifurcations with approximately 
40% stenosis
at both internal carotid arteries by NASCET criteria.
3. Intracranial vascular calcifications but without evidence of 
aneurysm,
occlusion or high-grade stenosis.
4. Ground-glass appearance and bronchial wall thickening in the 
visualized
right upper lung  due to pneumonia demonstrated on these chest 
x-ray of the
same day.
5. Chronic left maxillary sinusitis.

MICROBIOLOGY: 
============
___ 7:30 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 7:00 pm BLOOD CULTURE      2 OF 2. 

   Blood Culture, Routine (Pending):    No growth to date. 

DISCHARGE LABS: 
==============
___ 01:22PM BLOOD WBC-10.1* RBC-3.07* Hgb-8.9* Hct-28.9* 
MCV-94 MCH-29.0 MCHC-30.8* RDW-14.1 RDWSD-47.8* Plt ___
___ 05:42AM BLOOD ___ PTT-26.6 ___
___ 05:42AM BLOOD Glucose-82 UreaN-18 Creat-0.8 Na-142 
K-3.9 Cl-109* HCO3-23 AnGap-10
___ 02:35AM BLOOD cTropnT-0.02*
___ 05:42AM BLOOD Calcium-8.6 Phos-3.1 Mg-2.1

 
Brief Hospital Course:
SUMMARY STATEMENT: 
==================
___ from MN w/ ___ of  CAD (s/p MI and PCI in ___, HLD, NAFLD, 
anxiety, hiatal hernia, who presented with chills/sweats, 
fatigue, generalized weakness, mild confusion, n/v, and a 
possible syncopal episode vs fall out of bed (she awoke on the
floor next to her bed and did not recall how she got there).  
The only objective abnormalities found on her workup were 
hypovolemia and a RML infiltrate on CXR. It is hypothesized that 
she had a self-limited GI illness (viral or toxin-mediated 
gastroenteritis) with resultant weakness/orthostasis and an 
aspiration event.

ACUTE ISSUES: 
=============
#Nausea/vomiting
#Diaphoresis
Patient presented with an episode of nausea/vomiting and 
associated chills/rigors that resolved within 24 hours. Work up 
was notable for an elevated troponin to 0.07 without signs of 
ischemia on EKG. Additionally, WBC was elevated to ~11 and CXR 
showed multiple opacities. Neurology was also consulted and 
recommended CTA head given gait abnormalities, which showed 
multiple areas of mild stenosis, though none in the posterior 
circulation to suggest stroke as an etiology of her symptoms. 
She was treated symptomatically and with intravenous fluids with 
rapid resolution of her symptoms. Etiology was ultimately felt 
to be a viral or toxin-mediated gastroenteritis resulting in an 
aspiration pneumonitis/pneumonia, generalized weakness, and mild 
demand ischemia. She should follow up with her PCP for further 
evaluation. 

#Generalized weakness and possible syncope
Patient reported going to bed around 10:30PM and at 3AM 
remembers waking up on the ground but she does not report any 
memory of a fall, acute loss of consciousness, and is unclear as 
to whether she may have sat down and fallen asleep on the ground 
or fallen out of bed. Upon waking at 3AM, she had generalized 
weakness and was unable to get up from the ground. Neurology 
consulted in ED and felt her presentation was not concerning for 
acute syncope, seizure like activity, or cervical injury. 
Initial work up included EKG that showed no signs of massive MI 
or PE and she had no evidence of AS or dynamic outflow tract 
obstruction on careful cardiac exam. CT head without contrast 
was negative for ischemia, hemorrhage, edema or mass. CTA neck 
showed calcification of carotid bifurcations with approximately 
40% stenosis at both ICA arteries. No evidence of aneurysms, 
occlusion or high grade stenosis of intracranial vessels. Her 
weakness resolved while in the ED and her gait was back to 
baseline at time of discharge. Ultimately, history was felt to 
be consistent with weakness iso systemic illness rather than 
true syncope. 

#Aspiration pneumonitis vs pneumonia 
CXR on admission showed right middle lobe opacities and labs 
notably with a leukocytosis, concerning for pneumonia vs 
aspiration pneumonitis. She was asymptomatic prior to this 
presentation. Her history of being down in the setting of a 
significant hiatal hernia on CXR as well as the location in the 
RML all consistent with an aspiration pneumonitis. However, 
given that patient will not be able to followed closely in 
___, we will treat her for community acquired pneumonia for a 
total 5 day course. She was given ceftriaxone/azithromycin 
initially and will be discharged with PO 
cefpodoxime/azithromycin to end on ___. She should have a 
follow up CXR in ___ weeks to ensure resolution of her PNA vs 
pneumonitis. 

#Type II MI
#Hx of NSTEMI s/p stent (___)
Patient presented with troponin T 0.07 on admission that 
downtrended to 0.02 prior to discharge. EKG on admission was not 
concerning for any ischemia and serial EKGs showed no concerning 
changes. Initially concern was that nausea/vomiting/diaphoresis 
was an anginal equivalent as she described similar symptoms 
during her prior NSTEMI in ___ s/p stent placement. However, 
overall history and work up more consistent with type II demand 
NSTMEI iso acute illness rather than true plaque rupture. She 
should follow up with her PCP for further management. Discharged 
on home metoprolol, atorvastatin and aspirin. 

#Transaminitis
#steatosis 
Noted to have mild transaminitis with AST 61, ALT 53, normal 
Tbili. Also had steatosis on RUQUS, though steatohepatitis, 
hepatic fibrosis and cirrhosis cannot be excluded. Patient 
reports that she has been told by her doctors that ___ are 
noted to be elevated at baseline. No history of significant 
alcohol or acetaminophen use. ___ be in setting of NAFLD vs 
statin use. She will need outpatient follow up with fibroscan to 
evaluate for fibrosis.

#Anemia 
Patient presenting with normocytic anemia of 10.4 on admission 
which downtrended to 8.4 though with no reported signs or 
symptoms of acute bleeding. Likely that this was dilutional 
given she received 1L NS while in the ED and her platelets also 
downtrended. Repeat CBC on day of discharge showed stable Hgb of 
8.9.

CHRONIC ISSUES: 
===============
#Anxiety: continued on home citalopram 

TRANSITIONAL ISSUES: 
====================
[] Should complete total 5 day course of 
cefpodoxime/azithromycin on ___
[] Recommend repeat CBC and LFTs at outpatient visit
[] Consider repeat CXR in ___ weeks from discharge to ensure 
resolution of her RML opacity 
[] RUQ US with findings of steatosis, though unable to rule out 
steatohepatitis, hepatic fibrosis or cirrhosis. Would follow up 
with a fibroscan to further evaluate. 
[]If not already done, consider anemia work up as an outpatient 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Citalopram 40 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 3 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0 
2.  Cefpodoxime Proxetil 400 mg PO Q12H Duration: 4 Days 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Citalopram 40 mg PO DAILY  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
==================
Viral gastroenteritis 
Type II NSTEMI 

SECONDARY DIAGNOSIS: 
====================
Transaminitis 
Normocytic anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
-You had an episode of feeling sweaty, nauseous with vomiting, 
and had weakness 

What did you receive in the hospital?  
-You underwent testing including a CT scan of the head which 
showed no signs of stroke 
-We did a chest x-ray which showed a possible pneumonia in your 
right lung. It is more likely that this finding was because of 
inflammation due to swallowing some stomach fluids when you were 
lying down but as you will not be able to followed closely in 
___, we treated you with antibiotics for possible pneumonia  
-You improved and were ready to leave the hospital. 

What should you do once you leave the hospital?  
-Please call your primary care physician's office to follow up 
within the next ___ weeks 
-Please take your new antibiotics for the next 5 days as below 
-If you begin to once again feel sweaty with severe nausea and 
vomiting and are unable to keep food or liquids down or 
accompanied by chest pain or trouble breathing - please call 
your doctor and go to the nearest hospital. 

We wish you the best!  
Your ___ Care Team  
 
Followup Instructions:
___